US05064837
Following the procedure of example 22, react 1-(3-chlorophenyl)-3-chloromethyl-2(1H)-quinolone with sodium triazole in dimethylformamide. Chromatograph to obtain the major product, 1-(3-Chlorophenyl)-3-(1H-1,2,4-Triazol-1-ylmethyl)-2(1H)-Quinolone.

reactant | 1-(3-chlorophenyl)-3-chloromethyl-2(1H)-quinolone | ClC=1C=C(C=CC1)N1C(C(=CC2=CC=CC=C12)CCl)=O | C16H11Cl2NO
reactant | sodium triazole | N1N=NC=C1.[Na]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(3-Chlorophenyl)-3-(1H-1,2,4-Triazol-1-ylmethyl)-2(1H)-Quinolone | ClC=1C=C(C=CC1)N1C(C(=CC2=CC=CC=C12)CN1N=CN=C1)=O | C18H13ClN4O
